US09034866B2
Synthesis of ethyl 9-bromo-4-cyano-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
Thionyl chloride (3 mL) was added dropwise to a stirred solution of ethyl 9-bromo-4-hydroxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (600 mg, 1.61 mmol, 1.00 equiv) in dichloromethane (10 mL) at 0° C. After being stirred for 4 h at room temperature the resulting mixture was concentrated under vacuum. This resulted in 600 mg (95%) ethyl 9-bromo-4-chloro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate as a yellow solid; LC-MS (ES, m/z) 388, 390 [M+H]+. A suspension this intermediate (600 mg, 1.54 mmol, 1.00 equiv), 18-crown-6 (320 mg, 1.21 mmol, 0.50 equiv) and KCN (524 mg, 8.05 mmol, 5.00 equiv) in CH3CN (10 mL) was stirred overnight at room temperature. The reaction solution was diluted with of 10 mL of water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:6) to give 206 mg (35%) of the titled compound as a yellow solid; LC-MS (ES, m/z) 379, 381 [M+H]+

reactant | Thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 9-bromo-4-hydroxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 1.61 mmol, 600 mg, 1.00 equiv | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)O)C=C1 | C14H12BrNO4S
reactant | 18-crown-6 | 1.21 mmol, 320 mg, 0.50 equiv | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KCN | 8.05 mmol, 524 mg, 5.00 equiv | [C-]#N.[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | water | 10 mL | O | H2O
product | ethyl 9-bromo-4-cyano-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 206 mg, 35% | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)C#N)C=C1 | C15H11BrN2O3S
